* RLC Bandpass Filter
* R=100R, L=10mH, C=1uF
* fc = 1/(2*pi*sqrt(L*C)) ~= 1.59kHz

V1 Vin gnd DC 0 AC 1
R1 Vin Vout 100
L1 Vin Vout 10m
C1 Vout gnd 1u

.END